US05965559
Using an analogous procedure to that described in the first paragraph of the portion of Example 30 which is concerned with the preparation of starting materials, N-(2-naphthylsulphonyl)glycine was reacted with methyl 4-aminobutyrate to give methyl 4-[2-(2-naphthalenesulphonamido )acetamido]butyrate in 56% yield.

reactant | N-(2-naphthylsulphonyl)glycine | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)O | C12H11NO4S
reactant | methyl 4-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl 4-[2-(2-naphthalenesulphonamido )acetamido]butyrate | 56% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NCCCC(=O)OC | C17H20N2O5S
